US07214802B2
1-Methylimidazole (4.0 mL, 50.3 mmol) was dissolved in dry THF (250 mL) under a N2 atmosphere. The solution was cooled to −78° C. and n-BuLi (2.5 M in hexanes, 20.1 mL, 50.3 mmol) was added slowly. After 15 min phenyl disulfide (11.0 g, 50.3 mmol) was added and the reaction was warmed to room temperature and stirred for 30 min. The reaction was then cooled to −78° C. and a second portion of n-BuLi (20.1 mL, 50.3 mmol) was added. After 30 min, iodine (13.4 g, 50.3 mmol) was added. The reaction was warmed to room temperature and Et2O (400 mL) and 1 M sodium bisulfite (250 mL) was added. The layers were separated and the organic layer washed with brine, dried over MgSO4, and filtered. The solution was concentrated and hexanes were added to the resulting precipitate. The precipitate was collected by vacuum filtration, washed with hexanes, and dried under vacuum to provide 5-iodo-1-methyl-2-phenylsulfanyl-1H-imidazole (4.0 g, 25%) as a white solid: ESI MS m/z 317 [C10H9IN2S+H]+.

reactant | 1-Methylimidazole | 50.3 mmol, 4.0 mL | CN1C=NC=C1 | C4H6N2
reactant | n-BuLi | 50.3 mmol, 2.5 M, 20.1 mL | [Li]CCCC
reactant | phenyl disulfide | 50.3 mmol, 11.0 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | n-BuLi | 50.3 mmol, 20.1 mL | [Li]CCCC
reactant | iodine | 50.3 mmol, 13.4 g | II | I2
reactant | sodium bisulfite | 1 M, 250 mL | S([O-])(O)=O.[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | Et2O | 400 mL | CCOCC | C4H10O
product | 5-iodo-1-methyl-2-phenylsulfanyl-1H-imidazole | 4.0 g, 25% | IC1=CN=C(N1C)SC1=CC=CC=C1 | C10H9IN2S
